US04609670
A solution of 5.16 g (0.024 mol) of 1-bromo-2-(3-methylphenyl)-2-oxoethane and 2.15 g (0.026 mol) of 1-methylimidazole in approximately 30 ml of diethyl ether was stirred at room temperature for about 19 hours. The reaction solvent was decanted and the resulting brown residue was washed with diethyl ether. The residue was washed with hot acetonitrile and recrystallized twice from acetonitrile/diethyl ether to afford 1.74 g of 1-methyl-3-[2-(3-methylphenyl)-2-oxoethyl]-1H-imidazolium bromide as white needles. (25% yield) mp=185°-187° C.

reactant | 1-bromo-2-(3-methylphenyl)-2-oxoethane | 0.024 mol, 5.16 g | BrCC(=O)C1=CC(=CC=C1)C | C9H9BrO
reactant | 1-methylimidazole | 0.026 mol, 2.15 g | CN1C=NC=C1 | C4H6N2
solvent | diethyl ether | approximately 30 ml | C(C)OCC | C4H10O
product | 1-methyl-3-[2-(3-methylphenyl)-2-oxoethyl]-1H-imidazolium bromide | 1.74 g, 25% yield | [Br-].C[NH+]1CN(C=C1)CC(=O)C1=CC(=CC=C1)C | InChI=1S/C13H16N2O.BrH/c1-11-4-3-5-12(8-11)13(16)9-15-7-6-14(2)10-15;/h3-8H,9-10H2,1-2H3;1H
